US06534445B1
4.0 g (0.0134 mol) of 3-hydroxy-2-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)cyclohex-2-enone (compound A2-B1) are suspended in 25 ml of oxalyl chloride, and 0.1 ml of dimethylformamide is subsequently added dropwise. After the vigorous evolution of gas has ceased, the mixture is held for 1.5 hours at a bath temperature of 45° C. and subsequently concentrated, and the residue (3-chloro-2-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)-cyclohex-2-enone) is dissolved in 60 ml of methylene chloride. Triethylamine (3.7 ml, 0.0268 mol), dimethylaminopyridine (160 mg, 1.34 mmol) and 1.5 ml (0.0147 mol) of thiophenol are added at a temperature of 0-5° C. After 20 hours at a temperature of 22° C., the reaction mixture is concentrated and purified on silica gel (hexane/ethyl acetate 5:1). Trituration in hexane gives pure 2-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)-3-phenylsulfanylcyclohex-2-enone in the form of white crystals of melting point 124-125° C. 1H-NMR (CDCl3): 1.99, m, 2H; 2.41, m 4H; 2.80, s, 3H; 2.60: 7.40-7.60, m, 6H; 7.80 ppm, d(J, 8.2 Hz), 1H.

reactant | 3-hydroxy-2-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)cyclohex-2-enone | 0.0134 mol, 4.0 g | OC1=C(C(CCC1)=O)C(=O)C=1C(=NC(=CC1)C(F)(F)F)C | C14H12F3NO3
reactant | Triethylamine | 0.0268 mol, 3.7 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 1.34 mmol, 160 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | thiophenol | 0.0147 mol, 1.5 ml | C1(=CC=CC=C1)S | C6H6S
solvent | oxalyl chloride | 25 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
product | 2-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)-3-phenylsulfanylcyclohex-2-enone | CC1=NC(=CC=C1C(=O)C=1C(CCCC1SC1=CC=CC=C1)=O)C(F)(F)F | C20H16F3NO2S
